US04266963
Preparation of 1,3-Dimethyl-4-(2,4-dichlorobenzoyl)-5-pivaloylmethoxypyrazole
Into a four necked flask was charged 0.45 g of 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole, and the contents were dissolved in 15 ml of methyl ethyl ketone. To the solution were added 0.5 g of anhydrous potassium carbonate and then 0.3 g of tert-butyl bromomethyl ketone while stirring, and the mixture was reacted for 2 hours under the reflux condition (80° C.). After completion of the reaction, the reaction product was collected by filtration, and the solvent (methyl ethyl ketone) was distilled off to obtain a crude product. The crude product was passed through a silica gel column (eluent: methylene chloride), and the eluent was distilled off to obtain 0.5 g of the titled compound having a melting point of 104° to 105° C.

reactant | 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole | 0.45 g | CN1N=C(C(=C1O)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | C12H10Cl2N2O2
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromomethyl ketone | 0.3 g | BrCC(=O)C(C)(C)C | C6H11BrO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methyl ethyl ketone | 15 ml | C(C)C(=O)C | C4H8O
product | 1,3-Dimethyl-4-(2,4-dichlorobenzoyl)-5-pivaloylmethoxypyrazole | 0.5 g | CN1N=C(C(=C1OCC(C(C)(C)C)=O)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | C18H20Cl2N2O3
